US07504413B2
(3S)-3-Amino-4-(4-bromophenyl)-1-butanol hydrochloride
1,1-Dimethylethyl {(1S)-1-[(4-bromophenyl)methyl]-3-hydroxypropyl}carbamate (4.4 g, 12.8 mmol) was dissolved in 4N HCl/dioxane (20 mL). After 2 h, the reaction mixture was concentrated in vacuo to give 3.69 g (94%) of the title compound as a white solid. LC/MS (ES) m/e 244.0 (M+H)+.

reactant | 1,1-Dimethylethyl {(1S)-1-[(4-bromophenyl)methyl]-3-hydroxypropyl}carbamate | 12.8 mmol, 4.4 g | BrC1=CC=C(C=C1)C[C@@H](CCO)NC(OC(C)(C)C)=O | C15H22BrNO3
reactant | HCl dioxane | 4N, 20 mL | Cl.O1CCOCC1
product | (3S)-3-Amino-4-(4-bromophenyl)-1-butanol hydrochloride | 3.69 g, 94% | Cl.N[C@H](CCO)CC1=CC=C(C=C1)Br | InChI=1S/C10H14BrNO.ClH/c11-9-3-1-8(2-4-9)7-10(12)5-6-13;/h1-4,10,13H,5-7,12H2;1H/t10-;/m1./s1
